US06232322B1
(2R)-2-[4-(2-Benzyl-benzo[b]thiophene-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4′-yloxy]-3-phenyl-propionic acid
The title compound was prepared from 4-(2-benzyl-benzo[b]thiophene-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4′-ol, and (S)-(−)-3-phenyllactic acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 82-84° C.; MS m/e 645 (M−H)+;

reactant | 4-(2-benzyl-benzo[b]thiophene-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4′-ol | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C=C2)O)C2=CC=C(C=C2)OC | C34H26O2S
reactant | (S)-(−)-3-phenyllactic acid methyl ester | COC([C@@H](O)CC1=CC=CC=C1)=O | C10H12O3
product | (2R)-2-[4-(2-Benzyl-benzo[b]thiophene-3-yl)-4″-methoxy-[1,1′;3′,1″]terphenyl-4′-yloxy]-3-phenyl-propionic acid | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C=C2)O[C@@H](C(=O)O)CC2=CC=CC=C2)C2=CC=C(C=C2)OC | C43H34O4S
